US04018799
By the procedure of Example 6, 26.43 g. (0.10 mol.) of (±)-6-acetoxy-2-hydroxy-2,5,7,8-tetramethylchroman was reacted with trimethyl phosphonoacetate and then with 80 ml. of pyridine and 120 ml. of acetic anhydride by stirring under N 2 overnight. The solution was poured into ice-H 2 O and worked up and dried in the manner of Example 2. The crude product was filtered throgh 750 g. of 0.05-0.2 mm silica gel with 95:5 parts by volume benzene ether and then distilled to give (±)-methyl-(6-acetoxy-2, 5,7,8-tetramethylchroman-2-yl) acetate as a colorless resin: b.p. 147°-149°C./10 mmHg.

reactant | (±)-6-acetoxy-2-hydroxy-2,5,7,8-tetramethylchroman | 0.10 mol | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)O)C | C15H20O4
reactant | trimethyl phosphonoacetate | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (±)-methyl-(6-acetoxy-2, 5,7,8-tetramethylchroman-2-yl) acetate | C(C)(=O)OC1(OC2=C(C(=C(C(=C2CC1C)C)OC(C)=O)C)C)C | C18H24O5
